US07417157B2
5.0 g (14.0 mmol) of methyltriphenylphosphonium bromide are initially introduced in 50 ml of THF, and 1.60 g (14.3 mmol) of potassium tert-butoxide in 20 ml of THF are added at −5° C. After 1 h at this temperature, 3.40 g (12.9 mmol) of (±)-(3R*, 4aR*, 9bS*)-7-ethoxy-6-fluoro-1,2,3,4,4a,9b-hexahydrodibenzofuran-3-carbaldehyde as a solution in 30 ml of THF are added dropwise, and the batch is stirred at room temperature for 16 h. The reaction solution is hydrolysed using water and acidified using 2 N HCl. The mixture is extracted with MTBE, and the combined organic phases are washed with sat. sodium chloride solution and dried using sodium sulfate. The crude product remaining after removal of the solvents is purified by column chromatography (SiO2, toluene). Further purification was carried out by repeated recrystallisation from isopropanol, giving (±)-(3R*, 4aR*, 9bS*)-7-ethoxy-6-fluoro-3-vinyl-1,2,3,4,4a,9b-hexahydrodibenzofuran as colourless solid (melting point 141° C.).

reactant | potassium tert-butoxide | 14.3 mmol, 1.60 g | CC(C)([O-])C.[K+]
reactant | 7-ethoxy-6-fluoro-1,2,3,4,4a,9b-hexahydrodibenzofuran-3-carbaldehyde | C(C)OC1=C(C2=C(C3C(O2)CC(CC3)C=O)C=C1)F | C15H17FO3
reactant | water | O | H2O
reactant | HCl | 2 N | Cl | ClH
catalyst | methyltriphenylphosphonium bromide | 14.0 mmol, 5.0 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 7-ethoxy-6-fluoro-3-vinyl-1,2,3,4,4a,9b-hexahydrodibenzofuran | C(C)OC1=C(C2=C(C3C(O2)CC(CC3)C=C)C=C1)F | C16H19FO2
